US07432260B2
[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine [12].
By condensation between 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone and N-[4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine nitrate. Light yellow solid. 1H-NMR (CDCl3), δ: 2.37 (s, 3H, CH3), 2.61 (m, 4H, CH2), 2.69 (s, 3H, CH3), 2.70 (s, 3H, CH3), 3.20 (m, 4H, CH2), 6.88 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 6.94 (s, 1H, NH), 6.96 (d, 2H, J=8.8 Hz, Ph-H), 7.51 (d, 2H, J=8.8 Hz, Ph-H), 8.38 (d, 1H, J=5.1 Hz, pyrimidinyl-H).

reactant | 3-dimethylamino-1-(2,4-dimethyl-thiazol-5-yl)-propenone | CC1=C(SC(=N1)C)/C=C/C(=O)N(C)C | C10H14N2OS
reactant | N-[4-(4-methyl-piperazin-1-yl)-phenyl]-guanidine nitrate | [N+](=O)(O)[O-].CN1CCN(CC1)C1=CC=C(C=C1)NC(=N)N
product | [4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C | C20H24N6S
